US08791114B2
(3-Chloro-5,5-dimethyl-4,5-dihydro-pyrazol-1-yl)-(3-fluoro-phenyl)-methanone.
A 250 mL round bottom flask equipped with a stir bar and nitrogen inlet was charged with dry CH2Cl2 (100 mL), Hunigs base (7.8 mL, 45 mmol) DMAP (5 mg) and 3-fluorobenzoyl chloride (1.8 mL. 15 mmol). The mixture was cooled to 0° C. To this mixture was added portionwise, 3-chloro-5,5-dimethyl-4,5-dihydro-1H-pyrazole.Hydrochloride (1.68 g, 10 mmol) and the reaction was allowed to warm to RT overnight. LC-MS showed consumption of SM. The reaction was added to water (100 mL), the phases were separated and the organic phase was washed with NaHCO3 (100 mL), dried (Na2SO4) and the solvent was evaporated under reduced pressure. The material was purified by chromatography using a 40 g silica cartridge eluting with heptane-EtOAc, gradient 0 to 20% EtOAc. Amount obtained: 0.9 g, 3.7 mmol, 37% yield. LC-MS (ESI) m/e 255 (M+H). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.76 (s, 6H) 3.03 (s, 2 H) 7.14 (td, J=8.36, 1.98 Hz, 1H) 7.36 (td, J=7.96, 5.71 Hz, 1H) 7.43 (dd, J=9.57, 2.25 Hz, 1H) 7.51 (d, J=7.76 Hz, 1H).

reactant | Hunigs base | 45 mmol, 7.8 mL, 5 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-fluorobenzoyl chloride | 15 mmol, 1.8 mL | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
reactant | 3-chloro-5,5-dimethyl-4,5-dihydro-1H-pyrazole.Hydrochloride | 10 mmol, 1.68 g | Cl.ClC1=NNC(C1)(C)C
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (3-Chloro-5,5-dimethyl-4,5-dihydro-pyrazol-1-yl)-(3-fluoro-phenyl)-methanone | 37% yield | ClC1=NN(C(C1)(C)C)C(=O)C1=CC(=CC=C1)F | C12H12ClFN2O
